### PR TITLE
Prove unitsrat_meet_unitszHat

### LINKED ISSUE #336: Prove `unitsrat_meet_unitszHat`

### PR DESCRIPTION
**Pull request by DjangoPeeters**
This pr fills in the proof of unitsrat_meet_unitszHat. The `leanok`'s still need to be added.

Closes #336

### CODE REVIEW

**Comment by DjangoPeeters** [comment]
It also looks like some other `leanok`'s and dependencies are missing from `ch05automorphicformexample.tex` so I'll try to fill these in.

**Comment by kbuzzard** [comment]
Thanks! Don't worry about the CI failure (the red x), this is an issue unrelated to this PR.

**Comment by DjangoPeeters** [comment]
Glad to help :)

**Comment by kbuzzard** [comment]
Can you merge `main` into this branch @DjangoPeeters and see if this makes the red X turn into a green tick? Sorry to make you a guinea-pig here :-) Let me know if you don't understand what I'm talking about. The idea is that the current version of `main` should have fixed the problems which CI is complaining about.

**Comment by pitmonticone** [comment]
Since there are no conflict, I can do it directly from browser by clicking the "Update branch" button we enabled way back.

**Comment by DjangoPeeters** [comment]
Sorry, I'm not sure what you mean. Do you mean `ImperialCollegeLondon:main` into `DjangoPeeters:main`? And do I still need to do it?

**Comment by pitmonticone** [comment]
@DjangoPeeters Don't worry, you don't need to do anything else. Thank you very much for your PR!

We can safely merge this PR now.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 1]
```diff
@@ -408,7 +408,79 @@ noncomputable abbrev unitszHatsub : Subgroup QHatˣ :=
...
+      apply Units.eq_inv_of_mul_eq_one_left
+      rw [← hz, AddMonoidHom.coe_coe, eq_intCast, ← zsmul_eq_mul,
+      TensorProduct.smul_tmul', zsmul_eq_mul, hzinvRat, Algebra.TensorProduct.one_def]
+    have h2 : (1 : ℚ) ⊗ₜ[ℤ] (Units.val zinvZHat) = xinv := by
+      apply Units.eq_inv_of_mul_eq_one_left
+      have hzHat : (1 : ℚ) ⊗ₜ[ℤ] (zHat : ZHat) = (x : QHat) := by simp [← hxzHat]
+      rw [← hzHat, Algebra.TensorProduct.tmul_mul_tmul, mul_one, hzinvZHat, Algebra.TensorProduct.one_def]
+    have h3 : zinvRat ⊗ₜ[ℤ] (1 : ZHat) = (1 / b : ℚ) ⊗ₜ[ℤ] (a : ZHat) := by
+      unfold zinvRat
+      rw [Rat.mkRat_eq_div, ← mul_one (@Int.cast ℚ Rat.instIntCast a), ← mul_div,
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean:446]:
```suggestion
      rw [zinvRat_def, ← mul_one (a : ℚ), ← mul_div,
```
The advantage of `set` over `let` earlier is that you can do the unfold as a rewrite. Honestly you want to avoiding all this `Int.cast` stuff, just let the inbuilt coercions do their thing.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 2]
```diff
@@ -408,7 +408,79 @@ noncomputable abbrev unitszHatsub : Subgroup QHatˣ :=
...
+        unfold Nat.toPNat
+        rw [PNat.mk_coe]
+      rw [PNat.val_ofNat, Nat.cast_one, div_self one_ne_zero, this, ← h3, h1, h2]
+    have cop1 : IsCoprime (b.toPNat bpos) ↑a := by
+      rw [IsCoprime, ZHat.intCast_val, ← ZMod.isUnit_natAbs,
+        ZMod.isUnit_iff_coprime, Int.natAbs_sign_of_nonzero znez]
+      exact Nat.coprime_one_left _
+    have cop2 : IsCoprime 1 ↑zinvZHat := by
+      simp only [IsCoprime, PNat.val_ofNat]
+      exact isUnit_of_subsingleton _
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean:460]:
```suggestion
      simp only [IsCoprime, PNat.val_ofNat, isUnit_of_subsingleton]
```
`simp` can do this, saving a line.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 3]
```diff
@@ -408,7 +408,79 @@ noncomputable abbrev unitszHatsub : Subgroup QHatˣ :=
...
+    obtain ⟨hb, ha⟩ := (lowestTerms ↑x).2 (Nat.toPNat b bpos) 1 ↑a ↑zinvZHat ⟨cop1, cop2, heq⟩
+    have b1 : b = 1 := by
+      have : (1 : ℕ) = ↑(@OfNat.ofNat ℕ+ 1 (instOfNatPNatOfNeZeroNat 1)) := by norm_cast
+      rw [this, ← hb]
+      norm_cast
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean:465]:
```suggestion
    have b1 : b = 1 := PNat.coe_eq_one_iff.2 hb
```

File: FLT/AutomorphicRepresentation/Example.lean [hunk 4]
```diff
@@ -408,7 +408,79 @@ noncomputable abbrev unitszHatsub : Subgroup QHatˣ :=
...
+    apply Int.isUnit_iff_natAbs_eq.2 at b1
+    obtain ⟨u, hu⟩ := b1
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean:467]:
```suggestion
    obtain ⟨u, rfl⟩ := Int.isUnit_iff_natAbs_eq.2 b1
```
no need to change `b1` and life is easier if z is just defined to be `↑u`; then all the `z`s are completely eliminated.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 5]
```diff
@@ -408,7 +408,79 @@ noncomputable abbrev unitszHatsub : Subgroup QHatˣ :=
...
+    use u
+    have : @DFunLike.coe (ℤ →+ QHat) ℤ _ _ ↑(Int.castRingHom QHat) ↑u
+      = Units.val ((Units.map ↑(Int.castRingHom QHat)) u) := by norm_cast
+    rw [← hu, this, Units.eq_iff] at hz
+    exact hz
```
Comment (kbuzzard) [inline FLT/AutomorphicRepresentation/Example.lean:472]:
```suggestion
    ext
    norm_cast at hz
```

**Review by kbuzzard — APPROVED** [review]
Thanks a lot for getting through this!

My instinct is that you prove too many `have`s, but I didn't attempt to globally streamline the proof; I'm just happy it's done. However I did attempt to locally streamline the proof, on the basis that you put the effort into proving the result and might be happy to get some feedback. Here's my golfed version of your proof in full:

```lean
lemma unitsrat_meet_unitszHat : unitsratsub ⊓ unitszHatsub = unitszsub := by
  apply le_antisymm
  · intro x ⟨⟨q, hxq⟩, ⟨zHat, hxzHat⟩⟩
    obtain ⟨z, (hz : (z : QHat) = x)⟩ : (x : QHat) ∈ zsub := by
      rw [← rat_meet_zHat]
      exact ⟨⟨q, by simp [← hxq]⟩, zHat, by simp [← hxzHat]⟩
    have znez : z ≠ 0 := by
      rintro rfl
      simp [Eq.comm] at hz
    let a := Int.sign z
    let b := Int.natAbs z
    set zinvRat : ℚ := a / b with zinvRat_def
    have hzinvRat : z * zinvRat = 1 := by
      rw [mul_div, div_eq_one_iff_eq]
      · rw_mod_cast [Int.mul_sign z]
      · exact_mod_cast Int.natAbs_ne_zero.mpr znez
    let zinvZHat : ZHatˣ := zHat⁻¹
    have hzinvZHat : ↑zHat * ↑zinvZHat = (1 : ZHat) := Units.mul_inv zHat
    let xinv : QHatˣ := x⁻¹
    have h1 : zinvRat ⊗ₜ[ℤ] (1 : ZHat) = xinv := by
      apply Units.eq_inv_of_mul_eq_one_left
      rw [← hz, ← zsmul_eq_mul, TensorProduct.smul_tmul', zsmul_eq_mul,
        hzinvRat, Algebra.TensorProduct.one_def]
    have h2 : (1 : ℚ) ⊗ₜ[ℤ] (Units.val zinvZHat) = xinv := by
      apply Units.eq_inv_of_mul_eq_one_left
      have hzHat : (1 : ℚ) ⊗ₜ[ℤ] (zHat : ZHat) = (x : QHat) := by simp [← hxzHat]
      rw [← hzHat, Algebra.TensorProduct.tmul_mul_tmul, mul_one, hzinvZHat, Algebra.TensorProduct.one_def]
    have h3 : zinvRat ⊗ₜ[ℤ] (1 : ZHat) = (1 / b : ℚ) ⊗ₜ[ℤ] (a : ZHat) := by
      rw [zinvRat_def, ← mul_one (a : ℚ), ← mul_div,
      ← zsmul_eq_mul, TensorProduct.smul_tmul, zsmul_eq_mul, mul_one]
    have bpos : 0 < b := Int.natAbs_pos.2 znez
    have heq : (1 / (((Nat.toPNat b bpos) : ℕ) : ℚ)) ⊗ₜ[ℤ] (a : ZHat) = (1 / (((1 : ℕ+) : ℕ) : ℚ)) ⊗ₜ[ℤ] ↑zinvZHat := by
      have : ↑(Nat.toPNat b bpos) = b := by
        unfold Nat.toPNat
        rw [PNat.mk_coe]
      rw [PNat.val_ofNat, Nat.cast_one, div_self one_ne_zero, this, ← h3, h1, h2]
    have cop1 : IsCoprime (b.toPNat bpos) ↑a := by
      rw [IsCoprime, ZHat.intCast_val, ← ZMod.isUnit_natAbs,
        ZMod.isUnit_iff_coprime, Int.natAbs_sign_of_nonzero znez]
      exact Nat.coprime_one_left _
    have cop2 : IsCoprime 1 ↑zinvZHat := by
      simp only [IsCoprime, PNat.val_ofNat, isUnit_of_subsingleton]
    obtain ⟨hb, ha⟩ := (lowestTerms ↑x).2 (Nat.toPNat b bpos) 1 ↑a ↑zinvZHat ⟨cop1, cop2, heq⟩
    have b1 : b = 1 := PNat.coe_eq_one_iff.2 hb
    obtain ⟨u, rfl⟩ := Int.isUnit_iff_natAbs_eq.2 b1
    use u
    ext
    norm_cast at hz
  · intro x ⟨xz, hxz⟩
    constructor
    · use (Units.map ↑(Int.castRingHom ℚ)) xz
      norm_cast
    · use (Units.map ↑(Int.castRingHom ZHat)) xz
      rw [← hxz, ← MonoidHom.comp_apply, ← Units.map_comp]
      congr
      ext x
      · simp only [MonoidHom.coe_comp, MonoidHom.coe_coe, Function.comp_apply, Int.coe_castRingHom,
        Algebra.TensorProduct.includeRight_apply, Algebra.TensorProduct.one_tmul_intCast]
      simp
```

I'll merge the PR and then golf the result myself. Thanks a lot!

**Comment by DjangoPeeters** [comment]
Thank you so much for the golfing! I'm always amazed by how these proofs can be optimized. To be honest, sometimes it feels like I get lost in the woods and then I start resorting to this `@`-notation just to see what's going on underneath the hood, even though it's a bit ugly 😅. It's gonna take me some time learning coercions the right way. The feedback is always helpful 😄.
